US05629406
(4S)-1-[(2S,3S)-3-(N2 -Benzyloxycarbonyl-L-asparaginyl)amino-2-hydroxy-4-phenylbutyryl]-4-fluoro-N-t-butyl-L-prolinamide
Following a procedure similar to that described in Example 1, but using 222 mg (0,5 mmol) of (2S,3S)-3-(N2 -benzyloxycarbonyl-L-asparaginyl)amino-2-hydroxy-4-phenylbutyric acid and 144 mg (0.5 mmol) of (4S)-N-t-butoxycarbonyl-4-fluoro-N-t-butyl-L-prolinamide, 120 mg of the title compound were obtained as a colorless powder, melting at 95°-100° C.

reactant | (2S,3S)-3-(N2 -benzyloxycarbonyl-L-asparaginyl)amino-2-hydroxy-4-phenylbutyric acid | 0,5 mmol, 222 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(N)=O)C(=O)N[C@H]([C@@H](C(=O)O)O)CC1=CC=CC=C1 | C22H25N3O7
reactant | (4S)-N-t-butoxycarbonyl-4-fluoro-N-t-butyl-L-prolinamide | 0.5 mmol, 144 mg | C(C)(C)(C)OC(=O)N(C([C@H]1NC[C@H](C1)F)=O)C(C)(C)C | C14H25FN2O3
product | (4S)-1-[(2S,3S)-3-(N2 -Benzyloxycarbonyl-L-asparaginyl)amino-2-hydroxy-4-phenylbutyryl]-4-fluoro-N-t-butyl-L-prolinamide | 120 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(N)=O)C(=O)N[C@H]([C@@H](C(=O)N1[C@H](C(=O)NC(C)(C)C)C[C@@H](C1)F)O)CC1=CC=CC=C1 | C31H40FN5O7
